US09302991B2
<Step-3>:(5-bromo-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride
Free base of the title compound is prepared in 97% yield (510 mg, clear colorless oil) from 2-((5-bromo-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)isoindoline-1,3-dione (770 mg, 1.8 mmol, Step-2) by the similar manner in Step-4 of Amine-24. The obtained amine is suspended in 4M hydrochloric acid in dioxane (3 mL), and the mixture is stirred for 30 minutes at room temperature to give a white precipitate. The precipitate is collected by filtration, washed with dichloromethane, dried in vacuo to give 540 mg (94% yield) of the title compound as a white solid.

reactant | 2-((5-bromo-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)isoindoline-1,3-dione | 1.8 mmol, 770 mg | BrC=1C=C(C=NC1OCC(F)(F)F)CN1C(C2=CC=CC=C2C1=O)=O | C16H10BrF3N2O3
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (5-bromo-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride | 540 mg, 94% yield | Cl.BrC=1C=C(C=NC1OCC(F)(F)F)CN | InChI=1S/C8H8BrF3N2O.ClH/c9-6-1-5(2-13)3-14-7(6)15-4-8(10,11)12;/h1,3H,2,4,13H2;1H
